US04031226
A mixture of 0.333 parts of ethyl 2-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]ethylcarbamate, 1.65 parts of hydrobromic acid solution 48% and 0.11 parts of water is stirred and refluxed for 2 hours. The hydrobromic acid and water are evaporated. The residue is taken up three times in benzene, while each time the latter is evaporated. The oily residue is crystallized from 2- propanol. The product is filtered off and recrystallized from a small amount of ethanol, yielding 0.27 parts of 1-[1-(2-aminoethyl)-4-piperidinyl]-1,3-dihydro-2H-benzimidazol-2-one dihydrobromide; mp. +300° C(dec).

reactant | ethyl 2-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]ethylcarbamate | O=C1NC2=C(N1C1CCN(CC1)CCNC(OCC)=O)C=CC=C2 | C17H24N4O3
reactant | hydrobromic acid | Br | BrH
solvent | water | O | H2O
product | 1-[1-(2-aminoethyl)-4-piperidinyl]-1,3-dihydro-2H-benzimidazol-2-one dihydrobromide | Br.Br.NCCN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | InChI=1S/C14H20N4O.2BrH/c15-7-10-17-8-5-11(6-9-17)18-13-4-2-1-3-12(13)16-14(18)19;;/h1-4,11H,5-10,15H2,(H,16,19);2*1H
